US08664401B2
Step B) 2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[(E)-2-phenylvinyl]pyridin-1(2H)-yl}butanamide
A solution of hydrochloric acid (2.5 mL, 4.0 M in 1,4-dioxane) was added to a solution of (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[(E)-2-phenylvinyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (40 mg, 0.084 mmol) in 5:1 dichloromethane-methanol (2.5 mL) at 0° C. After 4 h, the reaction was concentrated under reduced pressure. The resulting residue was triturated with 1:1 pentane-diethyl ether, filtered, washed with pentane and dried under reduced pressure to provide a light yellow solid (33 mg, 76%). MS (LCMS) m/z 391.4 (M+1). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.69 (s, 3H) 2.30-2.42 (m, 1H) 2.56-2.69 (m, 1H) 3.08 (s, 3H) 3.93-4.06 (m, 1H) 4.32 (td, J=11.76, 4.98 Hz, 1H) 6.75 (s, 1H) 7.00 (d, J=6.24 Hz, 1H) 7.11 (d, J=16.39 Hz, 1H) 7.30-7.42 (m, 3H) 7.47 (d, J=16.39 Hz, 1H) 7.62 (d, J=7.02 Hz, 2H) 7.75 (s, 1H)

reactant | hydrochloric acid | 4.0 M, 2.5 mL | Cl | ClH
reactant | (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[(E)-2-phenylvinyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.084 mmol, 40 mg | C[C@](C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)\C=C\C1=CC=CC=C1)=O)S(=O)(=O)C | C24H30N2O6S
solvent | dichloromethane methanol | 2.5 mL | ClCCl.CO
product | N-hydroxy-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[(E)-2-phenylvinyl]pyridin-1(2H)-yl}butanamide | 33 mg, 76% | ONC(C(CCN1C(C=C(C=C1)\C=C\C1=CC=CC=C1)=O)(S(=O)(=O)C)C)=O | C19H22N2O5S
